US06177423B1
2-Benzyloxy-5-hydroxy-benzo[de]isoquinoline-1,3-dione (1.1 g, 3.5 mmol) and 2-bromopropionic acid (1.2 g, 7.8 mmol) were reacted in acetone (300 mL) in presence of potassium carbonate (2.3 g, 5.1 mmol) and potassium iodide (0.1 g, 0.6 mmol), following the procedure of Example 22 to give 1.1 g of 2-benzyloxy-5-(2-carboxy-ethoxy)-benzo[de]isoquinoline-1,3-dione. The hydrogenation of 2-benzyloxy-5-(2-carboxy-ethoxy)-benzo[de]isoquinoline-1,3-dione (1.1 g) in the presence of 10% Pd/C (0.5 g) in DMA (20 mL) afforded 0.3 g of the title compound, mp 236-239° C.;

reactant | 2-Benzyloxy-5-hydroxy-benzo[de]isoquinoline-1,3-dione | 3.5 mmol, 1.1 g | C(C1=CC=CC=C1)ON1C(C2=CC=CC=3C2=C(C1=O)C=C(C3)O)=O | C19H13NO4
reactant | 2-bromopropionic acid | 7.8 mmol, 1.2 g | BrC(C(=O)O)C | C3H5BrO2
reactant | potassium carbonate | 5.1 mmol, 2.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.6 mmol, 0.1 g | [I-].[K+]
solvent | acetone | 300 mL | CC(=O)C | C3H6O
product | 2-benzyloxy-5-(2-carboxy-ethoxy)-benzo[de]isoquinoline-1,3-dione | 1.1 g | C(C1=CC=CC=C1)ON1C(C2=CC=CC=3C2=C(C1=O)C=C(C3)OCCC(=O)O)=O | C22H17NO6
